US05470851
20(a) (14bR)-2-(4-Phthalimidobutyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine
Following a procedure similar to that described in Preparation 14(a), but using (14bR)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine and N-(4-bromobutyl)phthalimide, the title compound was obtained in a quantitative yield.

reactant | (14bR)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | C1NCCN2[C@@H]1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C17H18N2
reactant | N-(4-bromobutyl)phthalimide | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
product | (14bR)-2-(4-Phthalimidobutyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | quantitative yield | C1(C=2C(C(N1CCCCN1C[C@@H]3N(C4=C(CC5=C3C=CC=C5)C=CC=C4)CC1)=O)=CC=CC2)=O | C29H29N3O2
